US07037921B2
[3-(3-Methyl-4-oxo-5H-2-oxa-1,5,9-triaza-cyclopenta[a]naphthalen-5-yl)-cyclohexylmethyl]-carbamic acid benzyl ester
Dissolve (3-{[3-(3-fluoro-pyridin-2-yl)-5-methyl-isoxazole-4-carbonyl]-amino}-cyclohexylmethyl)-carbamic acid benzyl ester (260 mg, 0.56 mmol) in N,N-dimethylformamide (5 mL) at ambient temperature under a nitrogen atmosphere. Add a solution of potassium bis(trimethylsilyl)amide (0.5 M in toluene, 1.34 mL, 0.67 mmol) and stir for 15 min. at ambient temperature. Quench the dark mixture with water and follow by the adding solid sodium chloride. Extract with ethyl acetate and wash with water and dry over sodium sulfate. Concentrate and elute over silica gel with methanol/dichloromethane to give 131 mg (53%) of the desired product. MS(ES): (M+1)+ 447.2, 448.2 m/z.

reactant | (3-{[3-(3-fluoro-pyridin-2-yl)-5-methyl-isoxazole-4-carbonyl]-amino}-cyclohexylmethyl)-carbamic acid benzyl ester | 0.56 mmol, 260 mg | C(C1=CC=CC=C1)OC(NCC1CC(CCC1)NC(=O)C=1C(=NOC1C)C1=NC=CC=C1F)=O | C25H27FN4O4
reactant | potassium bis(trimethylsilyl)amide | 0.67 mmol, 0.5 M, 1.34 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | [3-(3-Methyl-4-oxo-5H-2-oxa-1,5,9-triaza-cyclopenta[a]naphthalen-5-yl)-cyclohexylmethyl]-carbamic acid benzyl ester | 131 mg, 53% | C(C1=CC=CC=C1)OC(NCC1CC(CCC1)N1C(C=2C(C3=NC=CC=C13)=NOC2C)=O)=O | C25H26N4O4
